US06350907B1
A solution of tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate (2.205 g, 3.78 mmol) in ethanol/water=10:1 (44 mL) was hydrogenated over 10% palladium on charcoal at 3 bar and room temperature for 6 h. The mixture was filtered through Arbocel filter aid, washing well with ethanol. The filtrate was concentrated under reduced pressure. The residue was dissolved in toluene and evaporated (three times), dissolved in ether and evaporated (twice), and finally dissolved in ether and precipitated as an oil by the addition of hexane. Removal of the solvent under reduced pressure gave tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(carboxy)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hexanoate (1.817 g, 97%) as a colourless foam, m.p. 51-56° C.

reactant | tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate | 3.78 mmol, 2.205 g | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)C1=CC=CC=C1)C)(C)C | C37H45NO5
solvent | ethanol water | C(C)O.O
catalyst | palladium on charcoal | [Pd] | Pd
product | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(carboxy)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hexanoate | 1.817 g, 97% | CC([C@@H](C(=O)O)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1=CC(=C(C=C1)C1=CC=CC=C1)C)(C)C | C30H41NO5
